US06872744B2
A solution of 2-carbomethoxy-6-methylsulfonylindole (750 mg, 2.8 mmol), in 10 mL hexafluoroisopropanol was treated with 2,4-difluorothiophenol (7.5 mmol) followed by addition of PIFA (5.6 mmol). The dark colored solution was stirred overnight then partitioned between methylene chloride and water. After concentration of the methylene chloride layer to 20 mL the product was precipitated by addition of 30 mL hexane. An 88% yield of 3-(2,4-difluoro-phenylsulfanyl)-6-methanesulfonyl-1H-indole-2-carboxylic acid methyl ester was obtained.

reactant | 2-carbomethoxy-6-methylsulfonylindole | 2.8 mmol, 750 mg | C(=O)(OC)C=1NC2=CC(=CC=C2C1)S(=O)(=O)C | C11H11NO4S
reactant | 2,4-difluorothiophenol | 7.5 mmol | FC1=C(C=CC(=C1)F)S | C6H4F2S
reactant | PIFA | 5.6 mmol | C1=CC=C(C=C1)I(OC(=O)C(F)(F)F)OC(=O)C(F)(F)F | C10H5F6IO4
solvent | hexafluoroisopropanol | 10 mL | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
product | 3-(2,4-difluoro-phenylsulfanyl)-6-methanesulfonyl-1H-indole-2-carboxylic acid methyl ester | 88% yield | COC(=O)C=1NC2=CC(=CC=C2C1SC1=C(C=C(C=C1)F)F)S(=O)(=O)C | C17H13F2NO4S2
